US04665183
6,7,8,9-Tetrahydro-10-methyl-9-(4-morpholinyl)-pyrido[1,2-a]indole Hydrochloride
To a solution of 6,7,8,9-tetrahydro-10-methylpyrido[1,2-a]indol-9-ol (2.01 g, 10 mmol, described in Example 2, Step (1) in dry pyridine (150 mL) was added a solution of p-toluenesulfonyl chloride (7.6 g, 40 mmol) in the same solvent (50 mL) at 0° C. Maintaining this temperature, stirring was continued for 60 minutes, and an excess of morpholine was added. The reaction mixture was stirred at ambient temperature for 3 hours, poured into water, and extracted with methylene chloride. The combined extracts were evaporated, and the residue was chromatographed. Elution with methylene chloride/methanol 20:1 afforded the title base. The hydrochloride salt was crystallized from EtOH, m.p. 172°-174° C.

reactant | 6,7,8,9-tetrahydro-10-methylpyrido[1,2-a]indol-9-ol | CC1=C2N(C3=CC=CC=C13)CCCC2O | C13H15NO
reactant | p-toluenesulfonyl chloride | 40 mmol, 7.6 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | morpholine | N1CCOCC1 | C4H9NO
reactant | water | O | H2O
solvent | pyridine | 150 mL | N1=CC=CC=C1 | C5H5N
product | 6,7,8,9-Tetrahydro-10-methyl-9-(4-morpholinyl)-pyrido[1,2-a]indole Hydrochloride | Cl.CC1=C2N(C3=CC=CC=C13)CCCC2N2CCOCC2 | InChI=1S/C17H22N2O.ClH/c1-13-14-5-2-3-6-15(14)19-8-4-7-16(17(13)19)18-9-11-20-12-10-18;/h2-3,5-6,16H,4,7-12H2,1H3;1H
